US04089672
A quantity (30.4 g., 0.1 mole) of 3,4,5-tribromopyrazole was dissolved in 500 ml. acetone and 27.6 g. (0.2 mole) solid anhydrous potassium carbonate was added. The mixture was heated at the reflux temperature with stirring for 10 minutes and after cooling 23.0 g. (0.11 mole) ethyl 2-bromohexanoate was added. This reaction mixture was heated at the reflux temperature for 11/2 hrs., cooled, and then filtered. The solids on the filter were washed with acetone and the combined acetone filtrate and acetone washes were evaporated to dryness under reduced pressure. Distillation of the residue yielded ethyl 3,4,5-tribromo-α-butylpyrazole-1-acetate, 41.0 g. (92% yield), having a boiling point at 138° to 140° C. at 0.15 mm. mercury pressure.

reactant | 3,4,5-tribromopyrazole | 0.1 mole, 30.4 g | BrC1=NNC(=C1Br)Br | C3HBr3N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromohexanoate | 0.11 mole | BrC(C(=O)OCC)CCCC | C8H15BrO2
solvent | acetone | CC(=O)C | C3H6O
product | ethyl 3,4,5-tribromo-α-butylpyrazole-1-acetate | 92% yield | BrC1=NN(C(=C1Br)Br)C(C(=O)OCC)CCCC | C11H15Br3N2O2
